US09193935B2
8.1: 1-((6E)-Dodeca-2,6-dienyl)-4-methylbenzene
Starting from p-methylphenethyltriphenylphosphonium bromide (2.90 g, 6.29 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.9 mL, 6.29 mmol, 1.0 equiv.) and (E)-dec-4-enal (1.45 g, 9.43 mmol, 1.5 equiv.), 0.92 g (57%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | p-methylphenethyltriphenylphosphonium bromide | 6.29 mmol, 2.90 g, 1.0 equiv. | [Br-].CC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 6.29 mmol, 1.6 M, 3.9 mL, 1.0 equiv. | [Li]CCCC
reactant | (E)-dec-4-enal | 9.43 mmol, 1.45 g, 1.5 equiv. | C(CC\C=C\CCCCC)=O | C10H18O
product | 1-((6E)-Dodeca-2,6-dienyl)-4-methylbenzene | 0.92 g, 57% | C(C=CCC\C=C\CCCCC)C1=CC=C(C=C1)C | C19H28
